US07863314B2
B. 3-[5-Amino-4-(tetrahydro-pyran-4-carbonyl)-imidazol-1-yl]-N-cyclopropyl-4-methyl-benzamide
A solution of 4-bromo-tetrahydro-pyran (0.82g, 5 mmol) in dry THF (10 mL) was added dropwise to the suspension of magnesium (132 mg, 5.5 mmol) and iodine (25 mg) in dry THF (20 mL) at 50° C. under N2. The mixture was stirred for 30 min after addition at 50° C., then cooled to room temperature. Then a THF (10 mL) solution of 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide (90 mg, 0.32 mmol) was added to the reaction mixture and it was stirred at room temperature for 3h then quenched with HCl (2N) and stirred at room temperature overnight. The pH of the solution was adjusted pH 8 with saturated aqueous K2CO3 was and it was extracted with EtOAc. The organic layer was washed by water and brine, dried over Na2SO4, and concentrated. The crude product was purified by column chromatography on silical gel (EtOAc˜EtOAc:MeOH:Et3N=100:10:1), and the product was obtained as a beige solid (35 mg, 30%). HPLC (4 minute gradient) tR=3.05 min; MS m/z 369.18 [M+H]+.

reactant | 4-bromo-tetrahydro-pyran | 5 mmol, 0.82g | BrC1CCOCC1 | C5H9BrO
reactant | magnesium | 5.5 mmol, 132 mg | [Mg] | Mg
reactant | iodine | 25 mg | II | I2
reactant | 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide | 0.32 mmol, 90 mg | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C#N | C15H15N5O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-[5-Amino-4-(tetrahydro-pyran-4-carbonyl)-imidazol-1-yl]-N-cyclopropyl-4-methyl-benzamide | 35 mg, 30% | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(=O)C1CCOCC1 | C20H24N4O3
